US06391880B1
A solution of 4-trifluoromethylphenylsulphonyl chloride (394 mg) in methylene chloride (4 ml) was added dropwise over 15 minutes to a mixture of 1-(4-piperidinylmethyl)-4-(4-pyridyl)piperidine hydrochloride (550 mg) and triethylamine (1.07 ml) in dichloromethane (10 ml) at 0° C. The solution was stirred at ambient temperature for 18 hours. The solution was diluted with dichloromethane and washed with water, dried (Na2SO4) and evaporated. The residue was purified by chromatography eluting with 2% methanol in dichloromethane. Recrystallisation from ethyl acetate/hexane gave, as a solid 1-[1-(4-trifluoromethylphenylsulphonyl)-(4-piperidinylmethyl)]-4-(4-pyridyl)piperidine (395 mg): NMR (CDCl3): 1.30 (m, 2H), 1.45 (m, 1H), 1.80 (m, 6H), 2.00 (dt, 2H), 2.20 (d, 2H), 2.30 (dt, 2H), 2.40 (m, 1H), 2.90 (d, 2H), 3.80 (d, 2H), 7.10 (d, 2H), 7.80 (d, 2H), 8.50 (d, 2H); m/z 468 (M+1).

reactant | 4-trifluoromethylphenylsulphonyl chloride | 394 mg | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
reactant | 1-(4-piperidinylmethyl)-4-(4-pyridyl)piperidine hydrochloride | 550 mg | Cl.N1CCC(CC1)CN1CCC(CC1)C1=CC=NC=C1
reactant | triethylamine | 1.07 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-[1-(4-trifluoromethylphenylsulphonyl)-(4-piperidinylmethyl)]-4-(4-pyridyl)piperidine | 395 mg | FC(C1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)CN1CCC(CC1)C1=CC=NC=C1)(F)F | C23H28F3N3O2S
